US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-[4-(benzenesulfonylamino)methyl-1,3-thiazol-2-yl]azetidine (2.79 g, 4.95 mmol) (obtained as described in Reference Example 65(1)) in anhydrous tetrahydrofuran (140 ml) was added a solution of 1.0 M tetra-n-butylammonium fluoride in tetrahydrofuran (5.94 ml, 5.94 mmol) in an ice bath and the mixture was stirred in an ice bath for 2 hours. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate as the eluant to afford 1-[4-(benzenesulfonylamino)methyl-1,3-thiazol-2-yl]-3-hydroxyazetidine (1.06 g, yield 66%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-[4-(benzenesulfonylamino)methyl-1,3-thiazol-2-yl]azetidine | 4.95 mmol, 2.79 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CNS(=O)(=O)C1=CC=CC=C1 | C29H33N3O3S2Si
reactant | tetra-n-butylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.94 mmol, 5.94 ml | O1CCCC1 | C4H8O
product | 1-[4-(benzenesulfonylamino)methyl-1,3-thiazol-2-yl]-3-hydroxyazetidine | 1.06 g, yield 66% | C1(=CC=CC=C1)S(=O)(=O)NCC=1N=C(SC1)N1CC(C1)O | C13H15N3O3S2
